US07173058B2
3-Amino-3-(3-cyclopropylmethoxy-4-difluoromethoxy-phenyl)-propionic acid methyl ester
To a solution of 3-amino-3-(3-cyclopropylmethoxy-4-difluoromethoxy-phenyl)-propionic acid methyl ester HCl salt (540 mg 1.5 mmol) in methylene chloride (20 ml) was added water (20 ml) and sodium carbonate (160 mg, 1.5 mmol). The mixture was stirred at room temperature for 30 min then separated in separatory funnel. The organic layer was washed with water (20 ml), brine (20 ml) and dried over magnesium sulfate. The solvent was removed in vacuo. The resulted oil was used in next step without further purification.

reactant | 3-amino-3-(3-cyclopropylmethoxy-4-difluoromethoxy-phenyl)-propionic acid methyl ester HCl salt | 1.5 mmol, 540 mg | Cl.COC(CC(C1=CC(=C(C=C1)OC(F)F)OCC1CC1)N)=O
reactant | water | 20 ml | O | H2O
reactant | sodium carbonate | 1.5 mmol, 160 mg | C([O-])([O-])=O.[Na+].[Na+]
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | 3-Amino-3-(3-cyclopropylmethoxy-4-difluoromethoxy-phenyl)-propionic acid methyl ester | COC(CC(C1=CC(=C(C=C1)OC(F)F)OCC1CC1)N)=O | C15H19F2NO4
